US20010007031A1
8-[(4-amino-1-methylbutyl)amino]-5-(3,4-dichlorophenoxy)-6-methoxy-4-methylquinoline.
A mixture of 12.2 g of 5-(3,4-dichlorophenoxy)-6-methoxy-4-methyl-8-[(4-phthalimido-1methylbutyl)amino]quinoline (21.6 mM) and 4 ml of 98% hydrazene hydrate in 500 ml of ethanol was refluxed 5 hours. The reaction mixture was evaporated under vacuum and the residue was partitioned between 400 ml of 10% potassium hydroxide and 400 ml of ethyl acetate. The organic layer was washed twice with 300 ml of 10% potassium hydroxide then four times with water, dried with anhydrous sodium sulfate and evaporated. The residue was used in the next reaction with out further purification.

reactant | 5-(3,4-dichlorophenoxy)-6-methoxy-4-methyl-8-[(4-phthalimido-1methylbutyl)amino]quinoline | 21.6 mM, 12.2 g | ClC=1C=C(OC2=C3C(=CC=NC3=C(C=C2OC)NC(CCCN2C(C=3C(C2=O)=CC=CC3)=O)C)C)C=CC1Cl | C30H27Cl2N3O4
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 8-[(4-amino-1-methylbutyl)amino]-5-(3,4-dichlorophenoxy)-6-methoxy-4-methylquinoline | NCCCC(C)NC=1C=C(C(=C2C(=CC=NC12)C)OC1=CC(=C(C=C1)Cl)Cl)OC | C22H25Cl2N3O2
